US08871782B2
Potassium carbonate (1.48 g, 10.75 mmol), N-(2-chloroethyl)-piperidine hydrochloride (483 mg, 2.62 mmol), sodium iodide (100 mg, 0.66 mmol), and 8-hydroxy-2-methoxymethyl-1-propyl-1H-imidazo[4,5-c]quinolin-4-amine (500 mg, 1.75 mmol) were combined in acetone as a slurry and heated at reflux overnight. The reaction mixture was cooled to ambient temperature and filtered. The filter cake was washed with acetone and the combined filtrate was concentrated under reduced pressure to afford a solid. The solid material was dissolved in dichloromethane and purified by chromatography on a HORIZON HPFC system (eluting with a gradient of CMA:chloroform from 0:100 to 40:60). The resulting material was concentrated under reduced pressure and crystallized from acetonitrile to afford 175 mg of 2-methoxymethyl-8-(2-piperidin-1-ylethoxy)-1-propyl-1H-imidazo[4,5-c]quinolin-4-amine as tan crystals, mp 160-162° C. Anal. calcd for C22H31N5O2.0.33 CH3CN.0.33H2O: C, 65.18; H, 7.90; N, 17.82. Found: C, 65.18; H, 8.05; N, 18.10.

reactant | Potassium carbonate | 10.75 mmol, 1.48 g | C([O-])([O-])=O.[K+].[K+]
reactant | N-(2-chloroethyl)-piperidine hydrochloride | 2.62 mmol, 483 mg | Cl.ClCCN1CCCCC1
reactant | sodium iodide | 0.66 mmol, 100 mg | [I-].[Na+]
reactant | 8-hydroxy-2-methoxymethyl-1-propyl-1H-imidazo[4,5-c]quinolin-4-amine | 1.75 mmol, 500 mg | OC1=CC=2C3=C(C(=NC2C=C1)N)N=C(N3CCC)COC | C15H18N4O2
solvent | acetone | CC(=O)C | C3H6O
solvent | dichloromethane | ClCCl | CH2Cl2
product | 2-methoxymethyl-8-(2-piperidin-1-ylethoxy)-1-propyl-1H-imidazo[4,5-c]quinolin-4-amine | 175 mg | COCC=1N(C2=C(C(=NC=3C=CC(=CC23)OCCN2CCCCC2)N)N1)CCC | C22H31N5O2
